US07572808B2
D. Preparation of 4-(8-bromo-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyridin-7-yl)benzonitrile
To a solution of 4-(8-bromo-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyridin-7-yl)benzonitrile (510 mg, 1.81 mmol) and 3-(chloromethyl)-2-methyl-6-(trifluoromethyl)pyridine (455 mg, 2.17 mmol) in anhydrous DMF (8 mL) was added anhydrous potassium carbonate (499 mg, 3.62 mmol). The resulting suspension was stirred under argon at 80° C. for 2 h. Analysis by HPLC/MS indicated the reaction was not complete. Additional of 3-(chloromethyl)-2-methyl-6-(trifluoromethyl)pyridine (120 mg, 0.57 mmol) and anhydrous potassium carbonate (200 mg, 2.07 mmol) were added, and the reaction mixture was stirred at 85° C. for 6 h more. After cooling to room temperature, the reaction mixture was partitioned between EtOAc and water, and the aqueous layer was extracted with EtOAc. The combined EtOAc extracts were washed with saturated aqueous NaCl, dried over Na2SO4, and concentrated under reduced pressure to afford a light brown solid. The solid was suspended in EtOAc/hexanes (about 1:1 ratio), then sonicated for 10 min to obtain a fine suspension. After filtration, the collected solid was washed with hexanes and dried in air to afford 500 mg of the title compound as a yellow solid. HPLC/MS: retention time=3.44 min, [M+H]+=489.2.

reactant | 4-(8-bromo-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyridin-7-yl)benzonitrile | 1.81 mmol, 510 mg | BrC=1C=2N(C=CC1C1=CC=C(C#N)C=C1)C(NN2)=O | C13H7BrN4O
reactant | 3-(chloromethyl)-2-methyl-6-(trifluoromethyl)pyridine | 2.17 mmol, 455 mg | ClCC=1C(=NC(=CC1)C(F)(F)F)C | C8H7ClF3N
reactant | potassium carbonate | 3.62 mmol, 499 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(chloromethyl)-2-methyl-6-(trifluoromethyl)pyridine | 0.57 mmol, 120 mg | ClCC=1C(=NC(=CC1)C(F)(F)F)C | C8H7ClF3N
reactant | potassium carbonate | 2.07 mmol, 200 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 4-(8-bromo-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-a]pyridin-7-yl)benzonitrile | 500 mg | BrC=1C=2N(C=CC1C1=CC=C(C#N)C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C)=O | C21H13BrF3N5O
